US03987160
2-Decyloxybenzamide (38.4 g.) was added to a solution of triethyloxonium borofluoride (30 g.) in anhydrous methylene chloride (90 ml.), and the mixture allowed to stand at room temperature overnight. The solution was concentrated to about 30 ml., diluted with anhydrous diethyl ether (150 ml.), and filtered to give ethyl 2-decyloxybenzimidate borofluoride (45.5 g.), m.p. 93°-96° C., pure enough for use in the next stage. An aliquot was recrystallised from a mixture of anhydrous methylene chloride and anhydrous diethyl ether to give pure ethyl 2-decyloxybenzimidate borofluoride, m.p. 96.5°-98.5° C.

reactant | 2-Decyloxybenzamide | 38.4 g | C(CCCCCCCCC)OC1=C(C(=O)N)C=CC=C1 | C17H27NO2
reactant | triethyloxonium borofluoride | 30 g | [B-](F)(F)(F)F.CC[O+](CC)CC
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-decyloxybenzimidate | C(CCCCCCCCC)OC1=C(C(OCC)=N)C=CC=C1 | C19H31NO2
